US08242126B2
Methyl 5-(2,2-difluoroethoxy)-2-nitrobenzoate
8.53 g of 2,2-difluoroethanol are added to a solution of 17.31 g of methyl 5-fluoro-2-nitrobenzoate, 9.64 g of NEt3 and 32.71 g of 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane in 250 ml of anhydrous THF. The mixture is stirred at AT for 30 min. The solvent is evaporated under reduced pressure. Water is added and extraction is carried out with AcOEt. The extract is washed with a 1N aqueous HCl solution, with water and then with a saturated NaCl solution. It is dried over MgSO4 and filtered, and the solvent is evaporated under reduced pressure to give 21 g of the expected product.

reactant | 2,2-difluoroethanol | 8.53 g | FC(CO)F | C2H4F2O
reactant | methyl 5-fluoro-2-nitrobenzoate | 17.31 g | FC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6FNO4
reactant | NEt3 | 9.64 g | CCN(CC)CC | C6H15N
reactant | 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane | 32.71 g | C(C(C)C)N1P2N(CCN(CC1)CCN2CC(C)C)CC(C)C | C18H39N4P
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | Methyl 5-(2,2-difluoroethoxy)-2-nitrobenzoate | 21 g | FC(COC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-])F | C10H9F2NO5
